US07368578B2
To a mixture of ethyl {4-[4-({2-methoxy-4-[({4-[(E)-2-(2-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate (0.48 g), tetrahydrofuran (12 mL) and ethanol (3 mL) was added 1N aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at 50° C. for 2 hrs. To the reaction mixture were added 1N hydrochloric acid (2 mL) and water, and the precipitated crystals were collected by filtration to give {4-[4-({2-methoxy-4-[({4-[(E)-2-(2-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetic acid as crystals (0.44 g, yield 96%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 181-182° C.

reactant | ethyl {4-[4-({2-methoxy-4-[({4-[(E)-2-(2-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 0.48 g | COC1=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=CC(=C1)COC1=NN(C=C1\C=C\C=1N=C(SC1)C)C1=CC=CC=C1 | C38H36N4O6S
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | {4-[4-({2-methoxy-4-[({4-[(E)-2-(2-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetic acid | 0.44 g, yield 96% | COC1=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)O)C=CC(=C1)COC1=NN(C=C1\C=C\C=1N=C(SC1)C)C1=CC=CC=C1 | C36H32N4O6S
